US05352784
6,7,8,9-Tetrahydro-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine
N,N-Bis(phenylmethyl)-6,7,8,9-tetrahydro-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine (820 mg, 1.87 mmole), palladium hydroxide on carbon (200 mg, Pearlman's catalyst), ammonium formate (472 mg, 7.48 mmole) and methanol (50 mL) were combined and heated at reflux for 48 hours. During the course of the reaction additional catalyst (200 mg) and ammonium formate (472 mg) were added. The reaction mixture was cooled to ambient temperature then filtered through a layer of celite. The liltrate was evaporated to provide a residue which was dissolved in 3N hydrochloric acid. The solution was made basic (pH 9) with ammonium hydroxide then extracted with methylene chloride (3×200 mL). The extracts were combined, washed with water, dried over magnesium sulfate then concentrated to provide 480 mg of a white solid. This solid was recrystallized from ethyl acetate to provide 260 mg of the desired product as a white solid, m.p. 170°-172° C. Analysis: Calculated for C15H22N4 +1/2H2): % C, 68.16; % H, 8.64; % N, 21.2; Found: % C, 68.47; % H, 8.14; % N, 21.08.

reactant | N,N-Bis(phenylmethyl)-6,7,8,9-tetrahydro-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.87 mmole, 820 mg | C1(=CC=CC=C1)CN(C1=NC=2CCCCC2C2=C1N=C(N2CC(C)C)C)CC2=CC=CC=C2 | C29H34N4
reactant | ammonium formate | 7.48 mmole, 472 mg | C(=O)[O-].[NH4+]
reactant | methanol | 50 mL | CO | CH4O
reactant | ammonium formate | 472 mg | C(=O)[O-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 3N | Cl | ClH
catalyst | palladium hydroxide on carbon | 200 mg | [OH-].[OH-].[Pd+2]
product | 6,7,8,9-Tetrahydro-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 480 mg | CC=1N(C2=C(C(=NC=3CCCCC23)N)N1)CC(C)C | C15H22N4
